US04377580
A mixture of ethyl 9,10-dimethyl-4-oxo-4H-primido[1,2-c]quinazoline-3-carboxylate (4.46 g) and anhydrous dimethylsulfoxide (17 ml) was stirred at ambient temperature. To the mixture was dropwise 1 N sodium-ethoxide-ethanol solution (20 ml) and the reaction mixture was stirred for 3 hours at ambient temperature. To the resultant mixture was added ammonium chloride (2.45 g) and the mixture was stirred for 5 minutes. To the mixture was added water and extracted twice with chloroform. After washing three times with water and with aqueous solution saturated with sodium chloride, the combined chloroform layer was treated with activated charcoal, dried over magnesium sulfate and concentrated under reduced pressure to give a residue, which was dissolved in a mixture of chloroform and ethyl acetate. Insoluble materials were removed by filtration. The filtrate was concentrated under reduced pressure and recrystallized twice from ethyl acetate and from a mixture of chloroform and hexane to give diethyl [(6,7-dimethyl-4-quinazolinylamino)methylene]propanedioate (2.01 g).

reactant | ethyl 9,10-dimethyl-4-oxo-4H-primido[1,2-c]quinazoline-3-carboxylate | 4.46 g | CC=1C(=CC=2C=3N(C=NC2C1)C(C(=CN3)C(=O)OCC)=O)C | C16H15N3O3
reactant | dimethylsulfoxide | 17 ml | CS(=O)C | C2H6OS
reactant | sodium-ethoxide ethanol | 1 N, 20 ml | [O-]CC.[Na+].C(C)O
reactant | ammonium chloride | 2.45 g | [Cl-].[NH4+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | diethyl [(6,7-dimethyl-4-quinazolinylamino)methylene]propanedioate | 2.01 g | CC=1C=C2C(=NC=NC2=CC1C)NC=C(C(=O)OCC)C(=O)OCC | C18H21N3O4
